* G:\My Drive\Graduate Classes\Fall 2018\ECE 581\Baxter UTK Tiny Box Challenge\DAB.asc
L1 N009 N004 1
L2 N004 N006 1
L3 N005 N007 1
M1 N002 NC_01 N003 N003 NMOS
M2 N003 NC_02 0 0 NMOS
M3 N002 NC_03 N006 N006 NMOS
M4 N006 NC_04 0 0 NMOS
M5 N001 NC_05 N005 N005 NMOS
M6 N005 NC_06 0 0 NMOS
M7 N001 NC_07 N007 N007 NMOS
M8 N007 NC_08 0 0 NMOS
C1 N001 0 1µ
R1 N001 0 10
V1 N002 0 48
R2 N003 N009 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L3 L2 1
.tran 1
.backanno
.end
